US04461878
Preparation of 1,3,5-tris(aminomethyl)benzene
1000 g of 1,3,5-tricyanobenzene (MTN) was charged in an autoclave having a 20 l capacity together with 400 g of Raney nickel-chromium catalyst (atomic ratio Ni:Cr=49:1), 1800 ml of methanol, 4.2 l of m-xylene and 32.6 g of sodium hydroxide. Hydrogen was injected thereinto under an initial pressure of 140 kg/cm2G and reaction was effected at 60°-102° C. to cause absorption of nearly theoretical amount of hydrogen for 31 minutes. The catalyst was filtered off and the solvent was distilled out. Then, distillation under reduced pressure was effected to obtain 874 g of colorless crystal of 1,3,5-tris(aminomethyl)benzene (MTA). The product had a melting point of 49°-51° C. and a boiling point of 136°-139° C./0.4 mmHg.

reactant | 1,3,5-tricyanobenzene | 1000 g | C(#N)C1=CC(=CC(=C1)C#N)C#N | C9H3N3
reactant | methanol | 1800 ml | CO | CH4O
reactant | sodium hydroxide | 32.6 g | [OH-].[Na+]
reactant | Hydrogen | [H][H] | H2
catalyst | nickel-chromium | [Cr].[Ni]
solvent | m-xylene | 4.2 l | C1(=CC(=CC=C1)C)C | C8H10
product | 1,3,5-tris(aminomethyl)benzene | 874 g | NCC1=CC(=CC(=C1)CN)CN | C9H15N3
